US05559248
4,4-Dimethyl-7-iodo-1-tetralone (XXIIa)
To a solution of 4,4-dimethyl-7-amino-1-tetralone (XXIa) (1.82 g, 10.0 mmol) in concentrated hydrochloric acid (4.69 mL) was added ice cold water (3.13 mL). The reaction mixture was then cooled to 0° C. by use of an ice-salt bath. The reaction mixture was then diazotized by the dropwise addition with stirring of a solution of sodium nitrite (0.76 g, 11.0 mmol) in water (3.13 mL) keeping temperature between 0°-5° C. After stirring for 15 minutes, the reaction mixture was added to a solution of potassium iodide (3.63 g, 21.9 mmol) in water (18.8 mL). After standing for 30 minutes, the dark gum was extracted with ethyl acetate (1×100 mL). The organic phase was then concentrated in vacuo and the residue chromatographed on silica gel (eluted with 5% ethyl acetate in hexane) to give 1.56 g (Y: 54%) of the title product. 1H-NMR (CDCl3): δ8.33 (d, J=2.0 Hz, 1H), 7.82 (dd, J=8.3, 2.0 Hz, 1H), 7.17 (d, J=8.4 Hz, 1H), 2.72 (t, J=6.8 Hz, 2H), 2.01 (t, J=6.8 Hz, 2H), 1.37 (s, 6H); MS (DCI) m/e: 301 (MH+).

reactant | 4,4-dimethyl-7-amino-1-tetralone | 10.0 mmol, 1.82 g | CC1(CCC(C2=CC(=CC=C12)N)=O)C | C12H15NO
reactant | sodium nitrite | 11.0 mmol, 0.76 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 21.9 mmol, 3.63 g | [I-].[K+]
solvent | hydrochloric acid | 4.69 mL | Cl | ClH
solvent | water | 3.13 mL | O | H2O
solvent | water | 18.8 mL | O | H2O
product | 4,4-Dimethyl-7-iodo-1-tetralone | CC1(CCC(C2=CC(=CC=C12)I)=O)C | C12H13IO
